US08114902B2
(4-2) Synthesis of 2-amino-2-{2-[2′-fluoro-4′-(4-methylphenylthio)biphenyl-4-yl]ethyl}propane-1,3-diol
N-(5-{2-[2′-Fluoro-4′-(4-methylphenylthio)biphenyl-4-yl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide (1.187 g) was dissolved in ethanol (20 mL), concentrated hydrochloric acid (10 mL) was added, and the mixture was stirred at 80° C. for 5 hr. The reaction mixture was concentrated, aqueous potassium carbonate solution was added to the residue, and the precipitated crystals were collected by filtration. The crude crystals were purified by preparative HPLC to give the title compound (491 mg) as white crystals.

reactant | N-(5-{2-[2′-Fluoro-4′-(4-methylphenylthio)biphenyl-4-yl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide | 1.187 g | FC1=C(C=CC(=C1)SC1=CC=C(C=C1)C)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O | C29H32FNO3S
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-amino-2-{2-[2′-fluoro-4′-(4-methylphenylthio)biphenyl-4-yl]ethyl}propane-1,3-diol | 491 mg | NC(CO)(CO)CCC1=CC=C(C=C1)C1=C(C=C(C=C1)SC1=CC=C(C=C1)C)F | C24H26FNO2S
